Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
left leg weakness and numbness
s/p tPA
 
Major Surgical or Invasive Procedure:
IV tPA prior to admission
 
History of Present Illness:
Mr. ___ is a ___ yo man with CLL, DM, HTN, HLD and right
subcortical stroke in ___ who presents s/p tPA from OSH for 
left
leg numbness and weakness.

Today he went into the bedroom to put on pajamas at 4:45 pm. 
When
he sat down, his left leg went numb. When he stood up to pull up
his pants, he almost fell to the left. He sat down and called
___. He was taken to ___, where he was given tPA at
6:51 pm. Since receiving tPA, he feels that his symptoms are
unchanged.

In ___, he had left face/arm/leg paresis and numbness due to
stroke. He recovered with the exception of Left thigh weakness,
though he was still able to move his leg. He walks with a cane.
This leg weakness/numbness today felt similar to his previous
stroke.

He has chronic right shoulder pain.

 On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  No bowel or bladder
incontinence or retention.
  
 On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
CLL
PPM for bradycardia
Stroke in ___
HTN
HLD
DM
 
Social History:
___
Family History:
- no cancer or stroke
 
Physical Exam:
==============================
ADMISSION EXAM:
Vitals: 98.2  63  118/49  16  97% RA 
 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM
 Neck: Supple, no  nuchal rigidity.
 Pulmonary: CTABL
 Cardiac: RRR, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: mild edema, pulses palpated
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty.  Language is fluent with intact repetition 
and comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects.  Speech was not dysarthric.  Able to follow both 
midline and appendicular commands.  Attentive, able to name ___ 
backward without difficulty.  There was no evidence of neglect.

-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
 III, IV, VI: EOMI without nystagmus.  Normal saccades.
 V: Facial sensation intact to light touch in all distributions
VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, paratonia throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  5   0   0   0   4-   5     3   
 R  ___   ___  ___   5   5    5     5   
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   2    1     1     0    0
 R   2    1     1     0    0

- Plantar response was extensor bilaterally.
- Pectoralis Jerk was absent, and Crossed Adductors are absent. 
  
 -Sensory: Left thigh and calf decreased FT and pin, normal 
sensation in left foot. Mildly decreased proprioception 
bilaterally.

-Coordination: Mild intention tremor on L FNF. No dysmetria on 
FNF. Normal R HKS.

-Gait: not tested.

==============================
DISCHARGE EXAM:
-Mental Status: Alert, oriented x 3. Language is fluent with 
intact repetition and comprehension.  Normal prosody.  There 
were no paraphasic errors.  Pt. was able to name both high and 
low frequency objects.  Speech was not dysarthric.  Able to 
follow both midline and appendicular commands.  Attentive with 
no evidence of neglect.

-Cranial Nerves:
 PERRL, EOMI without nystagmus, no facial asymmetry , palate  
elevates symmetrically and tongue in midline 
 -Motor: Full strength in the UE. 
   IP Quad Ham TA ___  ___ 
 L  4+   ___   4+    4   
 R  4+   ___    5     5   
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   2    2     1     0    0
 R   2    2     1     0    0

-Sensory: Left leg mild decrease sensation to light touch , no 
dermatomal pattern.

==============================
 
Pertinent Results:
ADMISSION LABS: ___
WBC-74.2* RBC-3.36* Hgb-9.2* Hct-30.0* Plt ___
Neuts-7* Bands-0 Lymphs-90* Monos-2* Eos-1 Baso-0 Atyps-0 
___ Myelos-0
AbsNeut-5.19 AbsLymp-66.78* AbsMono-1.48* AbsEos-0.74* 
AbsBaso-0.00*

___ PTT-32.5 ___

Glucose-214* UreaN-14 Creat-1.2 Na-137 K-4.0 Cl-100 HCO3-23 
AnGap-18
ALT-14 AST-28 AlkPhos-32* TotBili-0.2
Calcium-8.8 Phos-3.9 Mg-1.8 

cTropnT-<0.01

STox: negative
UTox: +opioids
UA: bland

Stroke Risk Factors:
Cholest-100 Triglyc-230* HDL-24 CHOL/HD-4.2 LDLcalc-30
%HbA1c-7.4* eAG-166*
TSH-20* T3-PND Free T4-PND

Imaging:
CTA Head/Neck ___
IMPRESSION: 
1. Patent circle of ___. 
2. Patent vasculature in the neck with no evidence of internal 
carotid artery stenosis by NASCET criteria. 
3. No acute intracranial abnormality. 
4. At least moderate spinal canal stenosis at C2-C3 and C3-C4 
secondary to ossifications of the posterior longitudinal 
ligaments. 

CT Head ___ post-tPA: no hemorrhagic transformation or 
evolving infarct noted

Echocardiogram:    The left atrium is normal in size. The 
estimated right atrial pressure is ___ mmHg. Agitated saline 
injected at rest but suboptimal image quality precludes adequate 
visualization of bubbles. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no 
ventricular septal defect. The aortic root is mildly dilated at 
the sinus level. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
IMPRESSION: Bubble study at rest performed but inadequate to 
exclude a PFO/ASD due to very suboptimal image quality. Mild 
symmetric left ventricular hypertrophy with preserved regional 
and global systolic function (contrast used for better 
endocardial definition). Mild aortic regurgitation. Mild 
pulmonary artery systolic hypertension.   
 
Brief Hospital Course:
Mr. ___ presented to OSH with acute onset left leg numbness and 
weakness. He received IV tPA and was transferred to ___ for 
monitoring. 

# NEURO
At ___, he was found to have proximal>distal weakness of the 
left lower extremity with some improvement in his sensory 
deficit.  His lower extremity exam had some functional overlay 
and was variable from day to day. He was monitored in the ICU 
for 24 hours without change in his examination and there was no 
evidence hemorrhagic transformation on his CT head.  The 
etiology of his symptoms remained unclear. CTA head and neck was 
difficult to interpret given timing of contrast, possibly with a 
cutoff in R ACA territory, but there was no evidence of evolving 
infarct within the limits of CT on repeat scan.  An echo was 
done, but was of poor quality.  

His stroke risk factors were assessed and include: 1) 
dyslipidemia, 2) IDDM, 3) HTN, 4) Obesity.  Lipid panel revealed 
low LDL and HDL and elevated triglycerides with a high 
triglyceride to LDL ratio.  Diabetes management is discussed 
below. His blood pressure was in good control ranging between 
130-160's/50's-70's. His home aspirin was restarted and his 
simvastatin and fenofibrates were continued. No meds were 
changed.

# HEME/ONC
His outpatient oncologist recommended holding is ibrutinib for 
24 hours after tPA due to elevated bleeding risk. This will be 
restarted as outpatient.

# THYROID
He was continued on his home levothyroxine. His thyroid function 
tests were notable for an elevated TSH at 30 T3-93. 

# DIABETES
His A1c was elevated at 7.4% and his metformin was initially 
held after contrast. He was maintained on insulin glargine and 
sliding scale. His ___ were elevated and that was the result of 
giving him 50 ___ at bedtime when he typically has it 
twice a day.  At discharge, his diabetes regimen was restarted 
as per his home regimen given that his blood glucose was well 
controlled ___ that regiment and this was confirmed with ___ 
Diabetes consult team. 

# MUSKULOSKELETAL
He complained of Left shoulder pain  with a remote hx of trauma, 
we had a shoulder X-ray that was negative and pain was well 
controlled on Ibuprofen and Vicodin which he sues at home 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
3. Divalproex (EXTended Release) 500 mg PO QAM 
4. Divalproex (EXTended Release) 750 mg PO QPM 
5. Fenofibrate 150 mg PO DAILY 
6. Fluoxetine 10 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. Gabapentin 200 mg PO TID 
9. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN pain 
10. ibrutinib 420 mg oral DAILY 
11. Glargine 50 Units Breakfast
Glargine 50 Units Bedtime
12. Levothyroxine Sodium 50 mcg PO DAILY 
13. Losartan Potassium 50 mg PO DAILY 
14. MetFORMIN (Glucophage) 1000 mg PO BID 
15. RISperidone 0.5 mg PO DAILY 
16. Simvastatin 20 mg PO QPM 
17. ZIPRASidone Hydrochloride 40 mg PO BID 
18. Aspirin EC 81 mg PO DAILY 
19. Calcium Carbonate 1000 mg PO DAILY 
20. Vitamin D3 (cholecalciferol (vitamin D3)) 400 unit oral 
DAILY 
21. Senna 8.6 mg PO BID:PRN cosntipation 
22. TraZODone 300 mg PO QHS 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Divalproex (EXTended Release) 500 mg PO QAM 
3. Divalproex (EXTended Release) 750 mg PO QPM 
4. Fenofibrate 150 mg PO DAILY 
5. Gabapentin 200 mg PO TID 
6. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN pain 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. RISperidone 0.5 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN cosntipation 
10. Simvastatin 20 mg PO QPM 
11. ZIPRASidone Hydrochloride 40 mg PO BID 
12. Amlodipine 5 mg PO DAILY 
13. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
14. Calcium Carbonate 1000 mg PO DAILY 
15. Furosemide 20 mg PO DAILY 
16. ibrutinib 420 mg oral DAILY 
17. Losartan Potassium 50 mg PO DAILY 
18. MetFORMIN (Glucophage) 1000 mg PO BID 
19. Vitamin D3 (cholecalciferol (vitamin D3)) 400 unit oral 
DAILY 
20. Fluoxetine 10 mg PO DAILY 
21. Glargine 50 Units Breakfast
Glargine 50 Units Bedtime
22. TraZODone 300 mg PO QHS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left leg weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after being treated with a blood 
thinning intravenous medication called tPA for concerns of an 
acute stroke as you presented with worsening left leg weakness 
and numbness.  We found no stroke on repeated brain imaging, the 
weakness and numbness has been improving.  You also complained 
of left shoulder pain for which we obtained an x-ray and that 
was normal.  You should continue your home medications.
 
Followup Instructions:
___